US07531545B2
Following the procedure as described in Example 25, STEP D, methyl amine and 4-oxo-cyclohexanecarbonitrile were reacted to yield 4-methyamino-cyclohexanecarbonitrile as a white solid, as its corresponding hydrochloride salt.

reactant | methyl amine | CN | CH5N
reactant | 4-oxo-cyclohexanecarbonitrile | O=C1CCC(CC1)C#N | C7H9NO
product | 4-methyamino-cyclohexanecarbonitrile | CNC1CCC(CC1)C#N | C8H14N2
